US04067903
N-(2-phenoxyethyl)-m-toluidine
138 parts of phenylglycol, 214 parts of m-toluidine and 15 parts of triphenyl phosphite are mixed whilst stirring and next heated to 210° C internal temperature. At this temperature, the elimination of water commences. The mixture is then heated to an internal temperature of 223° C in the course of 9 hours. During this time, 18 parts of water have distilled off and the condensation has ended. The excess starting material is then distilled off. 198 parts of N-(2-phenoxyethyl)-m-toluidine, corresponding to a yield of 87% of theory, distil at a boiling point of 186° - 192° C/5 mm Hg.

reactant | phenylglycol | C1=CC=C(C=C1)OCCO | C8H10O2
reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | N-(2-phenoxyethyl)-m-toluidine | yield of 87% | O(C1=CC=CC=C1)CCNC1=CC(=CC=C1)C | C15H17NO
